US04738929
Preparation of N-[3-(dimethylamino)propyl]-6-[[[3-(dimethylamino)propyl]imino]methyl]-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxamide
6-Formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester (1.107 g, 3.27 mmol), was stirred with 50 g of 3-(dimethylamino)propyl amine (Aldrich Chemical Company, Milwaukee, Wis., USA) at 60° C. for 1.5 hours. The reaction mixture was then cooled in an ice bath for 20 minutes and the crude imine amide product precipitated from solution. The precipitated solid was collected by filtration and washed with 50 ml of acetonitrile. The retention time for this product, employing the HPLC system and method described in Example 3 above, was 4.6 minutes.

reactant | 6-Formyl-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxylic acid, methyl ester | 3.27 mmol, 1.107 g | C(=O)C1=C2N=C3C(=CC=C(C3=NC2=C(C(=C1O)C)O)C(=O)OC)O | C16H12N2O6
reactant | 3-(dimethylamino)propyl amine | 50 g | CN(CCCN)C | C5H14N2
product | N-[3-(dimethylamino)propyl]-6-[[[3-(dimethylamino)propyl]imino]methyl]-4,7,9-trihydroxy-8-methyl-1-phenazinecarboxamide | CN(CCCNC(=O)C1=CC=C(C2=NC3=C(C(=C(C(=C3N=C12)O)C)O)C=NCCCN(C)C)O)C | C25H34N6O4
